US08377923B2
4-(1-methyl-1-{4-methyl-5-[2-(trifluoromethyl)phenyl]-4H-1,2,4-triazol-3-yl}ethoxy)benzoic acid (400 mg) was dissolved in methanol (12 ml), concentrated sulfuric acid (0.160 ml) was added thereto, followed by heating to reflux for 2 days. The reaction solution was cooled to room temperature, diluted with ethyl acetate and was washed with a 1M aqueous sodium hydroxide solution, water and saturated brine in this order. The organic layer was dried over anhydrous magnesium sulfate and then concentrated. The resulting solid was washed with diisopropylether to obtain methyl 4-(1-methyl-1-{4-methyl-5-[2-(trifluoromethyl)phenyl]-4H-1,2,4-triazol-3-yl}ethoxy)benzoate (249 mg), as a white solid.

reactant | 4-(1-methyl-1-{4-methyl-5-[2-(trifluoromethyl)phenyl]-4H-1,2,4-triazol-3-yl}ethoxy)benzoic acid | 400 mg | CC(C)(OC1=CC=C(C(=O)O)C=C1)C1=NN=C(N1C)C1=C(C=CC=C1)C(F)(F)F | C20H18F3N3O3
reactant | sulfuric acid | 0.160 ml | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 12 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 4-(1-methyl-1-{4-methyl-5-[2-(trifluoromethyl)phenyl]-4H-1,2,4-triazol-3-yl}ethoxy)benzoate | 249 mg | CC(C)(OC1=CC=C(C(=O)OC)C=C1)C1=NN=C(N1C)C1=C(C=CC=C1)C(F)(F)F | C21H20F3N3O3
